* NGSPICE file created from ihp_sg13g2_rom_slice.ext - technology: ihp-sg13g2

.subckt ihp_sg13g2_rom_slice VGND VPWR WL_PRESENT EN_PRESENT PRE_PRESENT Q_PRESENT
+ WL_ABSENT EN_ABSENT PRE_ABSENT Q_ABSENT
X0 VGND EN_ABSENT NROW_ABSENT/S NMASK_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.13u
X1 VPWR PRE_ABSENT BL_ABSENT VPWR sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.13u
X2 VPWR BL_PRESENT Q_PRESENT VPWR sg13_lv_pmos ad=9.24322p pd=77.045u as=0.77302p ps=7.205u w=1u l=0.13u
X3 NROW_PRESENT/S WL_PRESENT BL_PRESENT NROW_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=1.22242p pd=10.465u as=1.20022p ps=12.905u w=1u l=0.13u
X4 VPWR PRE_PRESENT BL_PRESENT VPWR sg13_lv_pmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X5 VGND BL_PRESENT Q_PRESENT NSENSE_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=9.72802p pd=81.085u as=0 ps=0 w=1u l=0.13u
X6 VPWR BL_ABSENT Q_ABSENT VPWR sg13_lv_pmos ad=0 pd=0 as=0.77302p ps=7.205u w=1u l=0.13u
X7 VGND BL_ABSENT Q_ABSENT NSENSE_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X8 VGND EN_PRESENT NROW_PRESENT/S NMASK_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X9 NROW_ABSENT/S WL_ABSENT ROM_DRAIN_ABSENT NROW_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=1.22242p pd=10.465u as=0.37962p ps=3.545u w=1u l=0.13u
C0 BL_ABSENT Q_PRESENT 0
C1 Q_ABSENT WL_ABSENT 0
C2 NROW_ABSENT/S Q_ABSENT 0.00301f
C3 Q_PRESENT VPWR 0.3696f
C4 Q_PRESENT NROW_PRESENT/S 0.00301f
C5 BL_ABSENT VPWR 0.68178f
C6 Q_PRESENT BL_PRESENT 0.3688f
C7 NROW_PRESENT/S VPWR 0.02708f
C8 Q_PRESENT WL_PRESENT 0
C9 PRE_ABSENT BL_ABSENT 0.14738f
C10 ROM_DRAIN_ABSENT WL_ABSENT 0.10518f
C11 VPWR BL_PRESENT 0.63007f
C12 ROM_DRAIN_ABSENT NROW_ABSENT/S 0.14106f
C13 PRE_ABSENT VPWR 0.16045f
C14 NROW_PRESENT/S BL_PRESENT 0.21617f
C15 VPWR WL_PRESENT 0.01661f
C16 BL_ABSENT Q_ABSENT 0.3682f
C17 NROW_PRESENT/S WL_PRESENT 0.00944f
C18 PRE_ABSENT BL_PRESENT 0
C19 EN_ABSENT WL_ABSENT 0.00324f
C20 Q_ABSENT VPWR 0.35973f
C21 NROW_ABSENT/S EN_ABSENT 0.00944f
C22 WL_PRESENT BL_PRESENT 0.15104f
C23 PRE_PRESENT Q_PRESENT 0
C24 PRE_ABSENT Q_ABSENT 0
C25 NROW_ABSENT/S WL_ABSENT 0.00944f
C26 PRE_PRESENT VPWR 0.15139f
C27 ROM_DRAIN_ABSENT BL_ABSENT 0.03054f
C28 PRE_PRESENT BL_PRESENT 0.14738f
C29 Q_PRESENT EN_PRESENT 0
C30 PRE_PRESENT WL_PRESENT 0
C31 BL_ABSENT EN_ABSENT 0.05152f
C32 EN_ABSENT VPWR 0.01665f
C33 EN_PRESENT VPWR 0.01665f
C34 NROW_PRESENT/S EN_PRESENT 0.00944f
C35 BL_ABSENT WL_ABSENT 0.04379f
C36 BL_ABSENT NROW_ABSENT/S 0.07493f
C37 ROM_DRAIN_ABSENT Q_ABSENT 0
C38 EN_PRESENT BL_PRESENT 0.05153f
C39 WL_ABSENT VPWR 0.01661f
C40 NROW_ABSENT/S VPWR 0.02708f
C41 EN_PRESENT WL_PRESENT 0.00324f
C42 WL_ABSENT BL_PRESENT 0
C43 PRE_ABSENT WL_ABSENT 0
C44 Q_ABSENT EN_ABSENT 0
R0 VGND NMASK_ABSENT/w_n81_n155.t0 2518.52
R1 VGND NROW_PRESENT/w_n81_n155.t0 2518.52
R2 VGND NSENSE_PRESENT/w_n81_n155.t0 2518.52
R3 VGND NSENSE_ABSENT/w_n81_n155.t0 2518.52
R4 VGND NMASK_PRESENT/w_n81_n155.t0 2518.52
R5 VGND NROW_ABSENT/w_n81_n155.t0 2518.52
R6 Q_ABSENT.n0 Q_ABSENT 0.773
R7 Q_ABSENT Q_ABSENT.n0 42.8801
R8 Q_ABSENT.n0 Q_ABSENT 40.3009
R9 Q_PRESENT.n0 Q_PRESENT 0.773
R10 Q_PRESENT Q_PRESENT.n0 42.8801
R11 Q_PRESENT.n0 Q_PRESENT 40.3009
R12 VPWR VPWR.n3 1.15925
R13 VPWR.n3 VPWR.n2 4.5005
R14 VPWR.n2 VPWR.n1 3.00425
R15 VPWR.n1 VPWR.n0 2.62175
R16 VPWR VPWR.n3 0.3605
R17 VPWR.n2 VPWR 0.3605
R18 VPWR.n1 VPWR 44.3493
R19 VPWR.n0 VPWR 0.3605
R20 VPWR.n0 VPWR 4.8605
R21 VGND VGND.n4 3.40925
R22 VGND.n4 VGND.n3 2.2505
R23 VGND VGND.n4 0.759875
R24 VGND.n3 VGND 0.759875
R25 VGND.n3 VGND.n1 2.98175
R26 VGND.n1 VGND.n2 4.84925
R27 VGND.n2 VGND 0.759875
R28 VGND.n2 VGND 3.00988
R29 VGND.n1 VGND.n0 7969
R30 VGND.n0 VGND 1275
R31 VGND VGND.n0 2025
R32 BL_ABSENT.n0 BL_ABSENT 20.3009
R33 BL_ABSENT BL_ABSENT.n0 1.07771
R34 BL_ABSENT.n0 BL_ABSENT 24.3463
R35 BL_PRESENT.n1 BL_PRESENT 20.5583
R36 BL_PRESENT.n1 BL_PRESENT 24.0888
R37 BL_PRESENT.n1 BL_PRESENT 1.19358
R38 BL_PRESENT BL_PRESENT.n0 1.07771
R39 BL_PRESENT.n0 BL_PRESENT 24.3463
R40 BL_PRESENT.n0 BL_PRESENT 20.3009
C45 BL_PRESENT.n0 VGND 0.2908f ; **FLOATING
C46 BL_PRESENT.n1 VGND 0.30202f ; **FLOATING
C47 BL_ABSENT.n0 VGND 0.31853f ; **FLOATING
C48 VPWR.n0 VGND 0.04617f ; **FLOATING
C49 VPWR.n1 VGND 0.04127f ; **FLOATING
C50 VPWR.n2 VGND 0.04481f ; **FLOATING
C51 VPWR.n3 VGND 0.0343f ; **FLOATING
C52 Q_PRESENT.n0 VGND 0.253f ; **FLOATING
C53 Q_ABSENT.n0 VGND 0.24807f ; **FLOATING
C54 NROW_ABSENT/S VGND 0.59768f
C55 ROM_DRAIN_ABSENT VGND 0.17511f
C56 WL_ABSENT VGND 0.35956f
C57 EN_PRESENT VGND 0.38236f
C58 Q_ABSENT VGND 1.10199f
C59 PRE_PRESENT VGND 0.29563f
C60 VPWR VGND 3.68409f
C61 NROW_PRESENT/S VGND 0.59768f
C62 BL_PRESENT VGND 2.21514f
C63 WL_PRESENT VGND 0.3607f
C64 Q_PRESENT VGND 1.09659f
C65 BL_ABSENT VGND 2.34121f
C66 PRE_ABSENT VGND 0.29235f
C67 EN_ABSENT VGND 0.38236f
.ends
