* NGSPICE file created from ihp_sg13g2_rom_slice.ext - technology: ihp-sg13g2

.subckt ihp_sg13g2_rom_slice VGND VPWR WL_PRESENT EN_PRESENT PRE_PRESENT Q_PRESENT
+ WL_ABSENT EN_ABSENT PRE_ABSENT Q_ABSENT
X0 VGND EN_ABSENT NROW_ABSENT/S NMASK_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.13u
X1 VPWR PRE_ABSENT BL_ABSENT VPWR sg13_lv_pmos ad=0.34p pd=2.68u as=0.34p ps=2.68u w=1u l=0.13u
X2 VPWR BL_PRESENT Q_PRESENT VPWR sg13_lv_pmos ad=9.24322p pd=77.045u as=0.77302p ps=7.205u w=1u l=0.13u
X3 NROW_PRESENT/S WL_PRESENT BL_PRESENT NROW_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=1.22242p pd=10.465u as=1.20022p ps=12.905u w=1u l=0.13u
X4 VPWR PRE_PRESENT BL_PRESENT VPWR sg13_lv_pmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X5 VGND BL_PRESENT Q_PRESENT NSENSE_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=9.72802p pd=81.085u as=0 ps=0 w=1u l=0.13u
X6 VPWR BL_ABSENT Q_ABSENT VPWR sg13_lv_pmos ad=0 pd=0 as=0.77302p ps=7.205u w=1u l=0.13u
X7 VGND BL_ABSENT Q_ABSENT NSENSE_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X8 VGND EN_PRESENT NROW_PRESENT/S NMASK_PRESENT/w_n81_n155.t0 sg13_lv_nmos ad=0 pd=0 as=0 ps=0 w=1u l=0.13u
X9 NROW_ABSENT/S WL_ABSENT ROM_DRAIN_ABSENT NROW_ABSENT/w_n81_n155.t0 sg13_lv_nmos ad=1.22242p pd=10.465u as=0.37962p ps=3.545u w=1u l=0.13u
C0 VPWR BL_ABSENT 0.55684f
C1 Q_PRESENT BL_PRESENT 0.29351f
C2 ROM_DRAIN_ABSENT NROW_ABSENT/S 0.11279f
C3 PRE_PRESENT Q_PRESENT 0
C4 Q_PRESENT WL_PRESENT 0
C5 PRE_ABSENT VPWR 0.13858f
C6 WL_ABSENT BL_ABSENT 0.03349f
C7 Q_ABSENT EN_ABSENT 0
C8 WL_ABSENT PRE_ABSENT 0
C9 VPWR BL_PRESENT 0.51295f
C10 PRE_PRESENT VPWR 0.13073f
C11 NROW_ABSENT/S BL_ABSENT 0.05552f
C12 VPWR WL_PRESENT 0.01336f
C13 WL_ABSENT BL_PRESENT 0
C14 EN_PRESENT NROW_PRESENT/S 0.00679f
C15 VPWR EN_ABSENT 0.01341f
C16 Q_ABSENT VPWR 0.28342f
C17 VPWR Q_PRESENT 0.2921f
C18 ROM_DRAIN_ABSENT BL_ABSENT 0.02279f
C19 WL_ABSENT EN_ABSENT 0.00271f
C20 WL_ABSENT Q_ABSENT 0
C21 NROW_ABSENT/S EN_ABSENT 0.00679f
C22 Q_ABSENT NROW_ABSENT/S 0.00276f
C23 EN_PRESENT BL_PRESENT 0.04045f
C24 WL_ABSENT VPWR 0.01336f
C25 NROW_PRESENT/S BL_PRESENT 0.16846f
C26 EN_PRESENT WL_PRESENT 0.00271f
C27 PRE_ABSENT BL_ABSENT 0.11593f
C28 NROW_PRESENT/S WL_PRESENT 0.00679f
C29 Q_ABSENT ROM_DRAIN_ABSENT 0
C30 NROW_ABSENT/S VPWR 0.02173f
C31 EN_PRESENT Q_PRESENT 0
C32 Q_PRESENT NROW_PRESENT/S 0.00276f
C33 WL_ABSENT NROW_ABSENT/S 0.00679f
C34 PRE_ABSENT BL_PRESENT 0
C35 EN_ABSENT BL_ABSENT 0.04044f
C36 Q_ABSENT BL_ABSENT 0.29296f
C37 Q_PRESENT BL_ABSENT 0
C38 EN_PRESENT VPWR 0.01341f
C39 VPWR NROW_PRESENT/S 0.02173f
C40 PRE_PRESENT BL_PRESENT 0.11593f
C41 WL_ABSENT ROM_DRAIN_ABSENT 0.08352f
C42 PRE_ABSENT Q_ABSENT 0
C43 BL_PRESENT WL_PRESENT 0.11867f
C44 PRE_PRESENT WL_PRESENT 0
R0 VGND NMASK_ABSENT/w_n81_n155.t0 2518.52
R1 VGND NROW_PRESENT/w_n81_n155.t0 2518.52
R2 VGND NSENSE_PRESENT/w_n81_n155.t0 2518.52
R3 VGND NSENSE_ABSENT/w_n81_n155.t0 2518.52
R4 VGND NMASK_PRESENT/w_n81_n155.t0 2518.52
R5 VGND NROW_ABSENT/w_n81_n155.t0 2518.52
R6 Q_ABSENT.n0 Q_ABSENT 0.773
R7 Q_ABSENT Q_ABSENT.n0 42.8801
R8 Q_ABSENT.n0 Q_ABSENT 40.3009
R9 Q_PRESENT.n0 Q_PRESENT 0.773
R10 Q_PRESENT Q_PRESENT.n0 42.8801
R11 Q_PRESENT.n0 Q_PRESENT 40.3009
R12 VPWR VPWR.n3 1.15925
R13 VPWR.n3 VPWR.n2 4.5005
R14 VPWR.n2 VPWR.n1 3.00425
R15 VPWR.n1 VPWR.n0 2.62175
R16 VPWR VPWR.n3 0.3605
R17 VPWR.n2 VPWR 0.3605
R18 VPWR.n1 VPWR 44.3493
R19 VPWR.n0 VPWR 0.3605
R20 VPWR.n0 VPWR 4.8605
R21 VGND VGND.n4 3.40925
R22 VGND.n4 VGND.n3 2.2505
R23 VGND VGND.n4 0.759875
R24 VGND.n3 VGND 0.759875
R25 VGND.n3 VGND.n1 2.98175
R26 VGND.n1 VGND.n2 4.84925
R27 VGND.n2 VGND 0.759875
R28 VGND.n2 VGND 3.00988
R29 VGND.n1 VGND.n0 7969
R30 VGND.n0 VGND 1275
R31 VGND VGND.n0 2025
R32 BL_ABSENT.n0 BL_ABSENT 20.3009
R33 BL_ABSENT BL_ABSENT.n0 1.07771
R34 BL_ABSENT.n0 BL_ABSENT 24.3463
R35 BL_PRESENT.n1 BL_PRESENT 20.5583
R36 BL_PRESENT.n1 BL_PRESENT 24.0888
R37 BL_PRESENT.n1 BL_PRESENT 1.19358
R38 BL_PRESENT BL_PRESENT.n0 1.07771
R39 BL_PRESENT.n0 BL_PRESENT 24.3463
R40 BL_PRESENT.n0 BL_PRESENT 20.3009
C45 BL_PRESENT.n0 VGND 0.23077f ; **FLOATING
C46 BL_PRESENT.n1 VGND 0.23968f ; **FLOATING
C47 BL_ABSENT.n0 VGND 0.253f ; **FLOATING
C48 VPWR.n0 VGND 0.03673f ; **FLOATING
C49 VPWR.n1 VGND 0.03283f ; **FLOATING
C50 VPWR.n2 VGND 0.03564f ; **FLOATING
C51 VPWR.n3 VGND 0.02728f ; **FLOATING
C52 Q_PRESENT.n0 VGND 0.20062f ; **FLOATING
C53 Q_ABSENT.n0 VGND 0.19629f ; **FLOATING
C54 NROW_ABSENT/S VGND 0.4788f
C55 ROM_DRAIN_ABSENT VGND 0.14066f
C56 WL_ABSENT VGND 0.303f
C57 EN_PRESENT VGND 0.32032f
C58 Q_ABSENT VGND 0.90207f
C59 PRE_PRESENT VGND 0.24402f
C60 VPWR VGND 3.03527f
C61 NROW_PRESENT/S VGND 0.4788f
C62 BL_PRESENT VGND 1.83193f
C63 WL_PRESENT VGND 0.304f
C64 Q_PRESENT VGND 0.89742f
C65 BL_ABSENT VGND 1.92787f
C66 PRE_ABSENT VGND 0.24088f
C67 EN_ABSENT VGND 0.32032f
.ends
